US08207182B2
a. Synthesis of 1-(4-nitrobenzyl)tetrahydropyrimidin-2-one (H)
To a solution of 3,4,5,6-tetrahydro-2-(1H)-pyrimidinone (4 g, 0.04 mol) in abs. DMF (50 mL) there were added potassium carbonate (5.5 g, approximately 0.04 mol), potassium iodide (3.3 g, 0.02 mol), and 4-nitrobenzyl bromide (8.6 g, 0.04 mol) at RT. The reaction mixture was stirred at 100° C. over a period of 2 h. Following cooling of the reaction mixture, it was added to ice water (500 mL). The precipitated solid matter was filtered off in vacuo and washed with a little acetyl (4×10 mL). The desired product 1-(4-nitrobenzyl)tetrahydropyrimidin-2-one (H) was obtained as yellow solid matter (3.5 g, 40% of theory) having a melting point of 150-162° C.

reactant | 3,4,5,6-tetrahydro-2-(1H)-pyrimidinone | 0.04 mol, 4 g | N1C(NCCC1)=O | C4H8N2O
reactant | potassium carbonate | approximately 0.04 mol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.02 mol, 3.3 g | [I-].[K+]
reactant | 4-nitrobenzyl bromide | 0.04 mol, 8.6 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(4-nitrobenzyl)tetrahydropyrimidin-2-one | [N+](=O)([O-])C1=CC=C(CN2C(NCCC2)=O)C=C1 | C11H13N3O3
